US06579983B1
Cerium trichloride heptahydrate (112.6 g, 302 mmol) was dried under vacuum (0.6 mbar) at 140-150° (oil bath) for 4 h in a flask fitted with a large magnetic stirring bar. The flask was refilled with nitrogen, cooled to 0° with an ice bath and anhydrous THF (500 ml) introduced with stirring. On complete addition the ice bath was removed and the milky suspension stirred at room temperature for 16 h. The reaction was cooled to −78° and methyl lithium (188 ml of a 1.6M solution in diethyl ether, 300 mmol) added dropwise with stirring. After 45 mins a solution of 4-(5-isoxazolyl)-benzonitrile (17.0 g, 100 mmol) in anhydrous THF (100 ml) was added and the reaction mixture left to warm in the cooling bath from −78° to −10° over 3 h. The reaction was quenched with 33% ammonium hydroxide (250 ml) and filtered through a pad of Celite® to remove the resultant solids. The Celite® pad was washed thoroughly with ethyl acetate (4×100 ml) and the combined filtrates concentrated to approximately 200 ml. These filtrates were diluted with brine (200 ml) and extracted with ethyl acetate (2×150 ml), the organic extracts were dried (MgSO4) and concentrated in vacuo to give 1-[4-(5-isoxazolyl)phenyl]-1-methylethylamine as a yellow solid (19.53 g). δH (CDCl3) 8.27 (1H, d, J 1.9 Hz), 7.76 (2H, dt, J 8.7, 2.0 Hz), 7.62 (2H, d, dt, J 8.7, 2.0 Hz), 6.49 (1H, d, J 1.9 Hz), 1.94 (2H, bs), 1.53 (6H, s). This compound was used in the following step without purification. A mixture of 1-[4-(5-isoxazolyl)phenyl]-1-methylethylamine (23.87 g, 118.2 mmol) and di-tert-butyl dicarbonate (28.37 g, 130 mmol) in toluene (200 ml) was heated to reflux for 1 h before removing solvent in vacuo. The resultant solid was recrystallised from ethanol to give tert-butyl N-{1-[4-(5-isoxazolyl)phenyl]-1-methylethyl}carbamate as bright yellow crystals (24.90 g) m.p. 145-146°. δH (CDCl3) 8.27 (1H, d, J 1.8 Hz), 7.75 (2H, d t, J 8.7, 2.1 Hz), 7.50 (2H, d t, J 8.7, 2.1 Hz), 6.49 (1H, d, J 1.8 Hz), 4.97 (1H, bs), 1.64 (6H, s), 1.37 (9H, bs). MS (ESI) 325 (MNa+, 42%), 303 (MH+, 56%), 186 (100%).

reactant | 1-[4-(5-isoxazolyl)phenyl]-1-methylethylamine | 118.2 mmol, 23.87 g | O1N=CC=C1C1=CC=C(C=C1)C(C)(C)N | C12H14N2O
reactant | di-tert-butyl dicarbonate | 130 mmol, 28.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-{1-[4-(5-isoxazolyl)phenyl]-1-methylethyl}carbamate | 24.90 g | O1N=CC=C1C1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C17H22N2O3
